US04888439
N-(15-ethoxycarbonyl-2,6,10,14-tetramethyl-2,6,10,14-pentadecatetraenoyl)dimethylamine
Starting materials: 15-ethoxycarbonyl-2,6,10,14-tetramethyl-2,6,10,14-pentadecatetraenoic acid and aqueous dimethylamine solution.

reactant | 15-ethoxycarbonyl-2,6,10,14-tetramethyl-2,6,10,14-pentadecatetraenoic acid | C(C)OC(=O)C=C(CCC=C(CCC=C(CCC=C(C(=O)O)C)C)C)C | C22H34O4
reactant | dimethylamine | CNC | C2H7N
product | N-(15-ethoxycarbonyl-2,6,10,14-tetramethyl-2,6,10,14-pentadecatetraenoyl)dimethylamine | C(C)OC(=O)C=C(CCC=C(CCC=C(CCC=C(C(=O)N(C)C)C)C)C)C | C24H39NO3
